US07189850B2
rac-2-(3-Fluoro-5-trifluoromethyl-phenyl)-cyclohexanol
A stirred solution of 8.00 g (32.9 mmol) 3-fluoro-5-trifluoromethyl-bromo-benzene in 40 ml Et2O under nitrogen was cooled to −78° C. and drop-wise 20.56 ml (32.9 mmol) of a 1.6 M butyl lithium solution in hexane were added. The reaction was strongly exothermic and the temperature was kept below −70° C. Then after 30 min. at −78° C. 2.66 ml (2.58 g, 26.3 mmol) cyclohexene oxide were added followed by 3.75 ml (4.2 g, 29.6 mmol) boron trifluoride diethyl etherate. The latter has to be added drop-wise to keep the temperature below −70° C. The reaction mixture was stirred for 2 h at −78° C. and then quenched with 40 ml saturated aqueous KHSO4 solution, warmed up to ambient temperature and extracted with tert.-butyl methyl ether. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated. The crude product, 7.53 g light yellow crystals, was purified by re-crystallisation from n-heptane: 4.90 g rac-2-(3-fluoro-5-trifluoromethyl-phenyl)-cyclohexanol as colorless crystalls: m.p. 76.5–77.4° C., MS (EI): 262.1 M+.

reactant | 3-fluoro-5-trifluoromethyl-bromo-benzene | 32.9 mmol, 8.00 g | FC=1C=C(C=C(C1)C(F)(F)F)Br | C7H3BrF4
reactant | butyl lithium | 1.6 M | C(CCC)[Li]
reactant | cyclohexene oxide | 26.3 mmol, 2.66 ml, 2.58 g | C12C(CCCC1)O2 | C6H10O
reactant | boron trifluoride diethyl etherate | 29.6 mmol, 3.75 ml, 4.2 g | B(F)(F)F.CCOCC
solvent | Et2O | 40 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | rac-2-(3-Fluoro-5-trifluoromethyl-phenyl)-cyclohexanol | FC=1C=C(C=C(C1)C(F)(F)F)C1C(CCCC1)O | C13H14F4O
